US08486979B2
5-(pyrazin-2-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The titled compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and pyrazine-2-carboxylic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.66 (ddd, J=8.0, 4.9, 1.0 Hz, 1 H), 8.60 (dt, J=8.0, 1.9 Hz, 1 H), 8.77 (dd, J=5.0, 1.8 Hz, 1 H), 8.86-8.89 (m, 1 H), 8.89-8.91 (m, 1 H), 9.34 (dd, J=2.4, 0.8 Hz, 1H), 9.56 (d, J=1.6 Hz, 1 H) ppm; MS (DCI/NH3) m/z 226 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | pyrazine-2-carboxylic acid | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | NH3 | N | H3N
product | 5-(pyrazin-2-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | N1=C(C=NC=C1)C1=NC(=NO1)C=1C=NC=CC1 | C11H7N5O
